US07704993B2
Step 3: Preparation of (S)-8,9-dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine.
A solution of (S)-N-trifluoroacetyl-8,9-dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (0.270 g, 1.2 mmol) in methanol (10 mL) was treated with 15% aqueous NaOH (10 mL), and stirred for 3.5 hours at 25° C. The product mixture was concentrated, extracted 3 times with CH2Cl2 (25 mL), dried with Na2SO4 and concentrated to give 0.270 g of a clear oil. 1H NMR (400 MHz, CDCl3) δ 7.40 (d, J=8 Hz, 1H), 7.16 (d, J=8 Hz, 1H), 4.17 (m, 1H), 3.55 (m, 2H), 3.5-3.3 (m, 2H), 3.2-3.0 (m, 2H), 1.43 (d, J=7 Hz, 3H). MS calculated for C11H13Cl2N+H: 230, observed: 230.

reactant | (S)-N-trifluoroacetyl-8,9-dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 1.2 mmol, 0.270 g | FC(C(=O)N1CCC2=C([C@@H](C1)C)C(=C(C=C2)Cl)Cl)(F)F | C13H12Cl2F3NO
reactant | NaOH | 10 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | (S)-8,9-dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.270 g | ClC=1C=CC2=C([C@@H](CNCC2)C)C1Cl | C11H13Cl2N
